US09382243B2
Methyl (4′-(6-chloro-2-(((3R,5S,6R)-5-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-3-yl)oxy)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-yl)carbamate
To a stirred solution of 4′-(6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-carboxylic acid (50 mg, 0.070 mmol) under nitrogen in anhydrous THF (1.5 mL) at room temperature was added triethylamine (17 μL, 12 mg, 0.119 mmol) and DPPA ((23 μL, 29 mg, 0.105 mmol). After stirring for 2 hours, anhydrous methanol (26 μL, 22 mg, 0.700 mmol) was added and the mixture was heated to 80° C. After 3 hours, the mixture was allowed to cool and was poured into saturated aqueous sodium bicarbonate (30 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resultant oil was chromatographed using a Biotage™20 g (2×10 g in series) silica gel cartridge eluted with 0-10% methanol in DCM over 15 column volumes with a 10 column volume hold at 10% methanol. The combined fractions containing the desired product were concentrated under reduced pressure. The resultant oil was dissolved in formic acid (1.8 mL) and saturated aqueous potassium hydrogen sulfate (0.3 mL). The mixture was stirred at 50° C. for 2 hours, then allowed to cool to room temperature. The mixture was poured into saturated aqueous sodium bicarbonate (30 mL) and extracted with EtOAc (2×50 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resultant white solid was dissolved in methanol (5 mL) and treated with 5N aqueous NaOH (0.2 mL). After stirring at room temperature for 15 minutes, the mixture was poured into water and neutralized with 1N aqueous HCl to pH 7. The mixture was extracted with EtOAc (2×40 mL); and the combined organic layers were washed with brine (30 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resultant oil was chromatographed using a Biotage™ 20 g (2×10 g in series) silica gel cartridge eluted with 0-10% methanol in DCM over 15 column volumes with a 10 column volume hold at 10% methanol. The desired product fractions were combined and concentrated under reduced pressure, dissolved in MeCN and water, frozen at −78° C., then lyophilized to dryness to give the title compound as a white solid. LC-MS: calculated for C26H25ClN4O6524.15, observed m/e: 525.08 (M+H)+ (Rt 1.80/4 min). 1H NMR δ (ppm)(DMSO-d6): 12.85 (br. s, 1H), 9.77 (s, 1H), 7.73-7.67 (m, 6H), 7.57 (d, J=8.5 Hz, 2H), 5.09 (d, J=5.5 Hz, 1H), 5.01 (heptet, J=5.5 Hz, 1H), 4.56 (t, J=6.0 Hz, 1H), 4.22 (m, 1H), 3.71 (m, 1H), 3.68 (s, 3H), 3.46-3.40 (m, 2H), 3.25 (t, J=10.5 Hz, 1H), 3.04 (m, 1H), 2.60 (m, 1H), 1.57 (q, J=11.5 Hz, 1H).

reactant | 4′-(6-chloro-2-(((4aR,7R,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl)oxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-carboxylic acid | 0.070 mmol, 50 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)N=C(N2COCC[Si](C)(C)C)O[C@@H]2C[C@@H]1OC(OC[C@H]1OC2)C2=CC=CC=C2 | C38H40ClN3O7Si
reactant | triethylamine | 0.119 mmol, 17 μL, 12 mg | C(C)N(CC)CC | C6H15N
reactant | DPPA | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | methanol | 0.700 mmol, 26 μL, 22 mg | CO | CH4O
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | Methyl (4′-(6-chloro-2-(((3R,5S,6R)-5-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-3-yl)oxy)-1H-imidazo[4,5-b]pyridin-5-yl)-[1,1′-biphenyl]-4-yl)carbamate | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=C(C=C1)NC(OC)=O)N=C(N2)O[C@H]2CO[C@@H]([C@H](C2)O)CO | C26H25ClN4O6
